US07189754B2
Ethyl (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylate
Following the general method as outlined in Example 11, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and ethanol, the title compound was isolated as a mixture of two isomers in 87.2% purity by HPLC.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | ethanol | C(C)O | C2H6O
product | Ethyl (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylate | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)OCC)C1=CC=CC=C1 | C21H22N2O4
